US07915268B2
4-(2,4-Dimethoxybenzylamino)-3-(5-nitro-4-(tetrahydro-2H-pyran-4-ylamino)pyrimidin-2-ylamino)benzonitrile.
To the suspension of 0.92 g (2.0 mmol) of 4-(2,4-dimethoxybenzylamino)-3-(5-nitro-4-thiocyanatopyrimidin-2-ylamino)benzonitrile in 40 mL anhydrous THF was added 0.22 g (2.2 mmol) 4-amino-tetrahydropyran, then 0.7 mL (4.0 mmol) N,N-diisopropylethylamine. The mixture was stirred at room temperature under Argon balloon for 16 hrs till HPLC showed the completion of reaction. The mixture became clear then. The orange-red solution was diluted with EtOAc, washed with brine twice, and then dried over Na2SO4. Solvents were removed under vacuum to give 1.0 g orange-yellow solid as the crude product.

reactant | 4-(2,4-dimethoxybenzylamino)-3-(5-nitro-4-thiocyanatopyrimidin-2-ylamino)benzonitrile | 2.0 mmol, 0.92 g | COC1=C(CNC2=C(C=C(C#N)C=C2)NC2=NC=C(C(=N2)SC#N)[N+](=O)[O-])C=CC(=C1)OC | C21H17N7O4S
reactant | 4-amino-tetrahydropyran | 2.2 mmol, 0.22 g | NC1CCOCC1 | C5H11NO
reactant | N,N-diisopropylethylamine | 4.0 mmol, 0.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(2,4-Dimethoxybenzylamino)-3-(5-nitro-4-(tetrahydro-2H-pyran-4-ylamino)pyrimidin-2-ylamino)benzonitrile | 1.0 g | COC1=C(CNC2=C(C=C(C#N)C=C2)NC2=NC=C(C(=N2)NC2CCOCC2)[N+](=O)[O-])C=CC(=C1)OC | C25H27N7O5
